US05516788
cis-4b,5,9b,10-tetrahydro-5-ethyl-indeno[1,2-b]indole
5,10-Dihydroindeno[1,2-b]indole (60.0 g, 0.29M) was vigorously stirred in glacial acetic acid (1000 cm3) and to it was added sodium cyanoborohydride (79 g, 1.25M) portion-wise over 40 minutes. After 3 hours stirring the reaction mixture was poured onto ice-water (2000 cm3) and the gelatinous solid which formed was separated and stirred with a mixture of ethyl acetate (75 cm3) and water (100 cm3). A colourless solid remained this was found to be unreacted starting material (19.0 g). The original filtrate was extracted with ethyl acetate (2×75 cm3) and the combined organic phases dried and evaporated. The residue was then partly dissolved in a mixture of 60°-80° C. petroleum ether (20 cm3) and ethyl acetate (40 cm3). The residual solid was removed and shown to be impure starting material (2.5 g). The filtrate was extracted with 2M hydrochloric acid (8×25 cm3) and the combined acid extracts were washed with ethyl acetate (2×15 cm3), prior to basification with 0.89 ammonia. The oil which separated was extracted into ethyl acetate (6×25 cm3) and the combined organic layers were then dried and evaporated to give the title compound as a colourless oil. Yield: 34 g, 75%. 1H NMR (CDCl3) δ: 1.20 (3H, t, J=7.0 Hz), 3.05 (1H, dd, J=16.5 and 5.0 Hz), 3.38 (2H, q, J=7.0 Hz), 3.40 (1, dd, J=16.5 and 9.0 Hz), 4.12 (1H, ddd, J=9.0, 5.0 and 5.0 Hz), 5.11 (1H, d, J=9.0 Hz), 6.33 (1H, d, J=7.0 Hz), 6.57 (1H, dt, J=7.5 and 1.0 Hz), 7.02 (1H, t, J=8.0 Hz ), 7.08 (1H, d, J=8.0 Hz), 7.14-7.20 (3H, m), 7.34-7.40 (1H, m).

reactant | 5,10-Dihydroindeno[1,2-b]indole | 0.29M, 60.0 g | C1=C2CC3=C(NC=4C=CC=CC34)C2=CC=C1 | C15H11N
reactant | sodium cyanoborohydride | 1.25M, 79 g | C(#N)[BH3-].[Na+]
reactant | acetic acid | 1000 cm3 | C(C)(=O)O | C2H4O2
product | cis-4b,5,9b,10-tetrahydro-5-ethyl-indeno[1,2-b]indole | C(C)N1[C@H]2[C@@H](C=3C=CC=CC13)CC1=CC=CC=C12 | C17H17N
